US09169271B2
N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-7a-yl]-4-fluoro-phenyl]-5-chloro-pyrazine-2-carboxamide
Scheme 3, steps M, substep 2 or step N, substep 3 (amidation): A mixture of 5-chloropyrazine-2-carboxylic acid (1.53 g, 9.66 mmol) in acetonitrile (15 mL, 283 mmol) is treated with DMF (115 μL, 1.49 mmol) and oxalyl chloride (970 μL, 11.1 mmol). The mixture is stirred at ambient temperature under nitrogen for 20 minutes. In a separate flask is added (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-2-amine (2.00 g, 7.43 mmol), ethanol (7.4 mL), water (7.4 mL) and the mixture is heated at 50° C. The acid chloride is added to the solution prepared above and the reaction mixture is stirred at 50° C. for 20 minutes. The reaction is cooled to room temperature, diluted with ethyl acetate (200 mL), and washed with water (40 mL) and saturated aqueous NaHCO3 (40 mL). The aqueous washes are combined and extracted with ethyl acetate (100 mL). The combined organic layers are dried (Na2SO4) and the solvent removed in vacuo to give the crude product. The crude product is purified by silica gel flash chromatography, eluting with ethyl acetate to give the title product (2.85 g, 94%). ES/MS (m/e): 410 (M+1)

reactant | 5-chloropyrazine-2-carboxylic acid | 9.66 mmol, 1.53 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | acetonitrile | 283 mmol, 15 mL | C(C)#N | C2H3N
reactant | DMF | 1.49 mmol, 115 μL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 11.1 mmol, 970 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (4aR,7aS)-7a-(5-amino-2-fluoro-phenyl)-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-2-amine | 7.43 mmol, 2.00 g | NC=1C=CC(=C(C1)[C@@]12N=C(OC[C@@]1(COC2)F)N)F | C12H13F2N3O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 7.4 mL | O | H2O
solvent | ethanol | 7.4 mL | C(C)O | C2H6O
product | N-[3-[(4aR,7aS)-2-Amino-4a-fluoro-5,7-dihydro-4H-furo[3,4-d][1,3]oxazin-7a-yl]-4-fluoro-phenyl]-5-chloro-pyrazine-2-carboxamide | 2.85 g, 94% | NC=1OC[C@]2([C@@](N1)(COC2)C=2C=C(C=CC2F)NC(=O)C2=NC=C(N=C2)Cl)F | C17H14ClF2N5O3
